US08378095B2
A solution of 2-(2,6-difluorophenyl)-5-(4-nitrophenylamino)oxazole-4-carbonitrile (0.435 g, 1.271 mmol) in 50:50 MeOH:EtOAc (10 ml) was hydrogenated using a 10% Pd/C catalyst at 30° C. at atmospheric pressure using the Thales H-Cube at a flow rate of 1 ml/min. The organic layer was then reduced in vacuo to yield 5-(4-aminophenylamino)-2-(2,6-difluorophenyl)oxazole-4-carbonitrile (0.360 g, 1.153 mmol, 90%). 1H NMR (CD3OD) δ 6.74 (2H, d), 7.10 (2H, d), 7.14 (2H, t), 7.55 (1H, m). LCMS (2) Rt: 2.47 min; m/z (ES+) 313.

reactant | 2-(2,6-difluorophenyl)-5-(4-nitrophenylamino)oxazole-4-carbonitrile | 1.271 mmol, 0.435 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C#N)NC1=CC=C(C=C1)[N+](=O)[O-] | C16H8F2N4O3
reactant | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | 5-(4-aminophenylamino)-2-(2,6-difluorophenyl)oxazole-4-carbonitrile | 1.153 mmol, 0.360 g, 90% | NC1=CC=C(C=C1)NC1=C(N=C(O1)C1=C(C=CC=C1F)F)C#N | C16H10F2N4O
